US06908921B2
To a solution of O-benzyl-D-serine methyl ester (3,13 g, 14.96 mmol) in MeOH, was added 2-fluoronitrobenzene (1.6 mL, 15.08 mmol) and NaHCO3 (1.3 g, 15.48 mmol), and the resulting solution was brought to a reflux for approximately one day. The reaction mixture was then cooled, filtered, concentrated and chased with benzene (4×50 ml). The residue was re-dissolved in EtOAc, cooled to 0° C. and HCl gas was bubbled into the resulting solution until it reached a pH of ˜4. The reaction mixture was allowed to warm to room temperature and stirred for 5 hours. Upon completion, the reaction mixture was washed with saturated NaHCO3 (3×50 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was subjected to silica gel chromatography eluting with 8%-30% EtOAc in Hexanes to give 1.09 g (3.30 mmol) of N-(2-nitrophenyl)-O-benzyl-D-serine methyl ester.

reactant | O-benzyl-D-serine methyl ester | 14.96 mmol, 3,13 g | COC([C@H](N)COCC1=CC=CC=C1)=O | C11H15NO3
reactant | 2-fluoronitrobenzene | 15.08 mmol, 1.6 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | NaHCO3 | 15.48 mmol, 1.3 g | C(=O)(O)[O-].[Na+]
solvent | MeOH | CO | CH4O
product | N-(2-nitrophenyl)-O-benzyl-D-serine methyl ester | 3.30 mmol, 1.09 g | COC([C@H](NC1=C(C=CC=C1)[N+](=O)[O-])COCC1=CC=CC=C1)=O | C17H18N2O5
